US04372953
1-Methyl-5-[4,4-ethylenedioxy-4-(2-pyridyl)butyl]thio-1,2,3,4-tetrazole (0.7 g) is dissolved in acetic acid (5 ml). Water (2.5 ml) and conc. hydrochloric acid (0.5 ml) are added to the solution and the mixture is heated on a water bath for 1 hour. Water is added to the reaction mixture and the mixture is extracted with chloroform. The chloroform solution is washed with water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off and the residue is purified by silica gel column chromatography (Kieselgel 60). The column is eluted with benzene-ether (10:1) and the product is recrystallized from hexane-ether to obtain 1-methyl-5-[3-(2-pyridylcarbonyl)propyl]thio-1,2,3,4-tetrazole, (0.5 g) as colorless needles, m.p. 73°-75° C.

reactant | 1-Methyl-5-[4,4-ethylenedioxy-4-(2-pyridyl)butyl]thio-1,2,3,4-tetrazole | 0.7 g | CN1N=NN=C1SCCCC1(C2=NC=CC=C2)OCCO1 | C13H17N5O2S
reactant | Water | 2.5 ml | O | H2O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-methyl-5-[3-(2-pyridylcarbonyl)propyl]thio-1,2,3,4-tetrazole | 0.5 g | CN1N=NN=C1SCCCC(=O)C1=NC=CC=C1 | C11H13N5OS
